US04716241
760 mg of 1-cyano-2,2,5,5-tetramethylcyclopentane was dissolved in 5 ml of aqueous 3N sodium hydroxide solution and 10 ml of MeOH, and the solution was stirred at room temperature for 10 hours. Then, 10 ml of water was added thereto, and the mixture was twice extracted with 30 ml of chloroform. The organic layers were combined, washed with 50 ml of water and concentrated under reduced pressure. The thus obtained residue was recrystallized from n-hexane, whereby 640 mg of (2,2,5,5-tetramethylcyclopentane-1-yl)carboxamide was obtained (m.p. 97.7° C.).

reactant | 1-cyano-2,2,5,5-tetramethylcyclopentane | 760 mg | C(#N)C1C(CCC1(C)C)(C)C | C10H17N
reactant | water | 10 ml | O | H2O
solvent | sodium hydroxide | 3N | [OH-].[Na+]
solvent | MeOH | 10 ml | CO | CH4O
product | (2,2,5,5-tetramethylcyclopentane-1-yl)carboxamide | 640 mg | CC1(C(C(CC1)(C)C)C(=O)N)C | C10H19NO
